US04985427
Dihydro-4-methyl-1-[4-(phenylmethoxy)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione
Methyl [1-[4-(phenylmethoxy)phenyl]hydrazino]acetate (0.73 g) was treated with methyl isocyanate (0.5 ml) and then with sodium methoxide solution (3.5 ml). The product was recrystallised from tetrahydrofuran-hexane to give the title compound (0.56 g), m.p. 224°-227°, t.l.c. (ethyl acetate) Rf 0.55.

reactant | Methyl [1-[4-(phenylmethoxy)phenyl]hydrazino]acetate | 0.73 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)N(N)CC(=O)OC | C16H18N2O3
reactant | methyl isocyanate | 0.5 ml | CN=C=O | C2H3NO
reactant | sodium methoxide | 3.5 ml | C[O-].[Na+]
product | Dihydro-4-methyl-1-[4-(phenylmethoxy)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | 0.56 g | CN1C(NN(CC1=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C17H17N3O3
